US09359359B2
A solution of 7-(4-chlorobenzyl)-8-(2-(cyclohexyloxy)ethoxy)-3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1H-purine-2,6(3H,7H)-dione (123 mg, 0.214 mmol) in 1 mM ethanolic HCl (2 mL) was stirred at room temperature for 30 min. The reaction was concentrated to dryness to give a crude product, which was purified by preparative HPLC to give 7-(4-chlorobenzyl)-8-(2-(cyclohexyloxy)ethoxy)-1-(3-hydroxypropyl)-3-methyl-1H-purine-2,6(3H,7H)-dione (64 mg, 60.9% yield) as a white solid. 1H-NMR (CDCl3) δ 7.41-7.44 (d, 2H), 7.28-7.31 (d, 2H), 5.26 (s, 2H), 4.63-4.65 (m, 2H), 4.17-4.20 (t, 2H), 3.81-3.84 (m, 2H), 3.68-3.70 (br, 1H), 3.21 (m, 5H), 3.30-3.34 (m, 1H), 1.87-1.93 (m, 4H), 1.75-1.77 (t, 2H), 1.55-1.58 (m, 1H), 1.23-1.36 (m, 5H). LCMS retention time 2.893 min; LCMS MH+ 491.

reactant | 7-(4-chlorobenzyl)-8-(2-(cyclohexyloxy)ethoxy)-3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1H-purine-2,6(3H,7H)-dione | 0.214 mmol, 123 mg | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CCCOC2OCCCC2)=O)C)OCCOC2CCCCC2)C=C1 | C29H39ClN4O6
solvent | HCl | 1 mM, 2 mL | Cl | ClH
product | 7-(4-chlorobenzyl)-8-(2-(cyclohexyloxy)ethoxy)-1-(3-hydroxypropyl)-3-methyl-1H-purine-2,6(3H,7H)-dione | 64 mg, 60.9% yield | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CCCO)=O)C)OCCOC2CCCCC2)C=C1 | C24H31ClN4O5
